US04816582
In the same manner as described in Example 9, from 1.87 g of (3S,4S)-3-amino-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid and 2 g of 2-(2-amino-4-thiazolyl)-2-[(Z)-(2-azidoethoxy)imino]-acetic acid there are obtained 2.2 g of (3S,4S)-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[(2-azidoethoxy)imino]acetamido]-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid.

reactant | (3S,4S)-3-amino-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid | 1.87 g | N[C@@H]1C(N([C@@H]1COC(N)=O)S(=O)(=O)O)=O | C5H9N3O6S
reactant | 2-(2-amino-4-thiazolyl)-2-[(Z)-(2-azidoethoxy)imino]-acetic acid | 2 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OCCN=[N+]=[N-] | C7H8N6O3S
product | (3S,4S)-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[(2-azidoethoxy)imino]acetamido]-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid | 2.2 g | NC=1SC=C(N1)/C(/C(=O)N[C@@H]1C(N([C@@H]1COC(N)=O)S(=O)(=O)O)=O)=N/OCCN=[N+]=[N-] | C12H15N9O8S2
